US04971982
3.77 g of m-chloroperbenzoic acid were added to a solution of 4.78 g of 4-[2-hydroxy-1,1-dimethyl-3-(4pyrimidinyl)propoxy]benzonitrile in 75 ml of dichloromethane and the mixture was stirred at 20° C. for 16 hours. A further 0.38 g of m-chloroperbenzoic acid was added and the mixture was stirred at 20° C. for 24 hours. The mixture was then washed in succession with water and sodium chloride solution. The organic solution was evaporated and the residue was chromatographed on silica gel using diethyl ether/methanol (9:1) for the elution to give 0.98 g of 6-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]pyrimidine 1-oxide in the form of a white solid of melting point 105°-107.5° C. (from ethyl acetate).

reactant | m-chloroperbenzoic acid | 3.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-[2-hydroxy-1,1-dimethyl-3-(4pyrimidinyl)propoxy]benzonitrile | 4.78 g | OC(C(OC1=CC=C(C#N)C=C1)(C)C)CC1=NC=NC=C1 | C16H17N3O2
reactant | m-chloroperbenzoic acid | 0.38 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 6-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]pyrimidine 1-oxide | 0.98 g | C(#N)C1=CC=C(OC(C(CC2=CC=NC=[N+]2[O-])O)(C)C)C=C1 | C16H17N3O3
